2103-07-11 09:25:00 Physician Attending Progress Note
Chief Complaint: trach removal, change in mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63F with history of hypercarbic respiratory failure, likely from OSA
   and COPD, presents from home for trach removal and worsened mental
   status per patient's husband, over the last 2 months:
   24 Hour Events:
   -abd pain overnight; s/p ct abdomen
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2103-7-11**] 04:08 AM
   Other medications:
   enalaprin, lantaprost, riss, keppra, simva, omepr, trazadone, percocet,
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-7-11**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 64 (64 - 100) bpm
   BP: 140/40(65) {101/31(34) - 183/98(105)} mmHg
   RR: 14 (14 - 65) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    130 mL
                                                                    140 mL
   Urine:
                                                                    130 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -130 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 352 (352 - 352) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 30 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   378 K/uL
   142 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   11 mg/dL
   103 mEq/L
   142 mEq/L
   33.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2103-7-11**]  03:24 AM
   WBC
   10.3
   Hct
   33.5
   Plt
   378
   Cr
   0.6
   Glucose
   142
   Other labs: PT / PTT / INR:12.9/22.6/1.1, ALT / AST:[**4-28**], Alk Phos / T
   Bili:94/0.3, Amylase / Lipase:/17, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.2 mg/dL
   Imaging:
   cxr: Low lung volumes limit evaluation of the lung parenchyma.
   Mild nodular interstitial thickening especially within the left lower
   lobe may
   represent atelectasis versus early pneumonia. Clinical correlation is
   recommended.
   head ct: Stable head CT without acute findings
   abd ct: ileus, stool in rectum, acute anterior compression fracture at
   T12
   Microbiology: sputum: culture, sputum pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   63F with history of hypercarbic respiratory failure, likely from OSA
   and COPD, presents from home for trach removal and worsened mental
   status over the last 2 months per patient's husband. Abdominal pain
   overnight as well, with CT abdomen consistent with ileus, likely from
   opiates.
   For chronic respiratory failure, will discuss with IP future steps in
   management of trach (will likely get bronchoscopy to reassess tracheal
   tear then trach downsize) including possible down-sizing to 6.0 for
   trial of trach capping in preparation for trach removal. Will try to
   clarify why she could not come for an appt as outpatient.
   For abdominal distension and pain, enema, needs rectal exam and
   possible disimpaction. Follow-up final abd ct read.
   Chronic mental status changes need outpatient work-up. Will send RPR,
   Vit B12
   Probable sleep apnea: she will need a sleep study once she can tolerate
   trach capping. Until then, keep trach uncapped (or if necessary on
   vent) qhs as a bridge to PAP.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:  20 Gauge - [**2103-7-10**] 08:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to home after discussion with IP
   Total time spent: 35 min

2103-07-12 08:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 62 yo F PMH of afib, memory loss s/p hypoglycemic
   coma, chronic low back pain, subarachnoid hemorrhage, chronic
   hypercarbic respiratory failure with tracheostomy in place presents for
   removal of trach, and concern for altered mental status.
   24 Hour Events:
 EKG - At [**2103-7-12**] 06:00 AM
   [**7-11**]:
   - CT Abdomen: 1. Acute anterior compression fracture at T12.  2. No
   evidence of other acute intra-abdominal pathology.
   - CXR: Low lung volumes limit evaluation of the lung parenchyma.  Mild
   nodular interstitial thickening especially within the left lower lobe
   may represent atelectasis versus early pneumonia. Clinical correlation
   is recommended.
   - CEs were negative
   - IP will attempt to downsize trach tomorrow. NPO after MN for
   procedure
   - Was given Fleets enema and Lactulose x2 -> No BM
   - Took her off the vent O/N
   - went into afib
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2103-7-11**] 09:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-7-12**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 105 (72 - 105) bpm
   BP: 140/52(75) {85/36(65) - 185/97(126)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    510 mL
                  PO:
                                                                    510 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    675 mL
                                                                    170 mL
   Urine:
                                                                    675 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -165 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, [**Last Name (un) 1406**]
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   344 K/uL
   10.3 g/dL
   134 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.2 mEq/L
   8 mg/dL
   102 mEq/L
   141 mEq/L
   33.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2103-7-11**]  03:24 AM
                             [**2103-7-12**]  04:55 AM
   WBC
   10.3
   10.0
   Hct
   33.5
   33.5
   Plt
   378
   344
   Cr
   0.6
   0.6
   TropT
   <0.01
   Glucose
   142
   134
   Other labs: PT / PTT / INR:12.6/23.5/1.1, CK / CKMB /
   Troponin-T:19//<0.01, ALT / AST:[**4-28**], Alk Phos / T Bili:94/0.3, Amylase
   / Lipase:/17, Ca++:137.0, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: CT:
   1. Acute anterior compression fracture at T12.
   2. No evidence of other acute intra-abdominal pathology.
   Microbiology: [**2103-7-11**] 1:00 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2103-7-11**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   62 yo F PMH of afib, memory loss s/p hypoglycemic coma, chronic low
   back pain, subarachnoid hemorrhage, chronic hypercarbic respiratory
   failure with tracheostomy in place presents for removal of trach, and
   concern for altered mental status.
   # Acute on chronic hypercarbic respiratory failure: Apparently
   multifactorial etiologies including central and obstructive apnea, a
   chronic paralyzed R hemidiaphragm, and obesity hypoventilation. Trach
   placed on [**3-12**]. On AC at nighttime, but doesn't use vent during the
   day. Pt and husband interested in weaning trach.
   - CXR equivocal for PNA, continue to monitor respiratory status
   - on trach overnight
   - IP will attempt to downsize trach tomorrow. NPO after MN for
   procedure
   # ?Compression fracture:  See at level of T12.
   - ortho c/s
   - calcium/vitamin D
   - f/u final read
   # Abdominal pain, loose stool, subjective abdominal distention: Dx
   colitis, pSBO, mass, hernia, illeus or constipation
   - f/u final abdominal CT read
   - minimize opiates
   - cont bowel reg
   - may need disimpaction
   # Afib: currently rate controlled.
   - no anticoag given history of subarachnoid hemorrhage
   # Subarachnoid hemorrhage: Has continued evolution of the left temporal
   lobe hematoma
   - continue to monitor
   FEN: No IVF, replete electrolytes, regular diet
   Prophylaxis: PNB
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-7-10**] 08:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2103-07-12 13:16:00 Physician Attending Progress Note
Chief Complaint: trach change
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63F with recent hypercarbic resp failure, tracheal tear associated with
   prior intubation requiring a trach, presents for elective trach change,
   now s/p trach change this morning:
   24 Hour Events:
 EKG - At [**2103-7-12**] 06:00 AM
   -off ventilator overnight without problems
   History obtained from Patient
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2103-7-12**] 08:33 AM
   Fentanyl - [**2103-7-12**] 08:33 AM
   Other medications:
   riss, enalapril, keppra, simva, omepr, flutic, impatr, ca, vitd,
   percocet, robitussin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: Lymphadenopathy
   Neurologic: No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: [**1-17**] Mild
   Pain location: chest
   Flowsheet Data as of  [**2103-7-12**] 01:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 70 (70 - 108) bpm
   BP: 111/43(56) {69/30(35) - 185/109(126)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    510 mL
                  PO:
                                                                    510 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    675 mL
                                                                    700 mL
   Urine:
                                                                    675 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -165 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 94%
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), distant hs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: R base, Rhonchorous:
   throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, less
   distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   344 K/uL
   134 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.2 mEq/L
   8 mg/dL
   102 mEq/L
   141 mEq/L
   33.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2103-7-11**]  03:24 AM
                             [**2103-7-12**]  04:55 AM
   WBC
   10.3
   10.0
   Hct
   33.5
   33.5
   Plt
   378
   344
   Cr
   0.6
   0.6
   TropT
   <0.01
   Glucose
   142
   134
   Other labs: PT / PTT / INR:12.6/23.5/1.1, CK / CKMB /
   Troponin-T:19//<0.01, ALT / AST:[**4-28**], Alk Phos / T Bili:94/0.3, Amylase
   / Lipase:/17, Ca++:137.0, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: Abd CT: acute compression fracture at T12 without other
   evidence to
   explain abdominal pain, less than 50% height loss by my read
   cxr: r-hemi, no infiltrate
   Microbiology: c.diff pending
   sputum pending
   ECG: stable
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   63F with recent hypercarbic resp failure, tracheal tear associated with
   prior intubation requiring a trach, presents for elective trach change,
   now s/p trach change this morning, doing well. Overnight pt did not
   require ventilator support with open trach.
   Mrs [**Known lastname 5699**] is ready to return home. She will need follow-up with IP
   and sleep clinic. Social work will be addressing whether follow up can
   be done at [**Hospital1 5**] or if it needs to be at [**Location (un) 8547**].
   Incidentally noted spine fracture requires additional medical work-up,
   including checking Vit D levels. She  has fallen in the past, and there
   is no evidence of metastatic disease. Will reassess whether she is up
   to date with routine cancer screening. For now will treat with ca, vit
   D, and bisphosphonate for secondary prevention. DEXA scan as
   outpatient. PT needs to see her as well.
   ICU Care
   Nutrition: regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2103-7-10**] 08:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:  Husband updated
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :D/C Home with services, likely tomorrow
   Total time spent: 35 minutes

2103-07-13 13:15:00 Physician Attending Progress Note
Chief Complaint: trach change
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63F with hispory of hypercarbic respiratory failure, s/p trach,
   presented without acute issues but now s/p trach change, doing well off
   vent for 2 nights in a row:
   24 Hour Events:
 BRONCHOSCOPY - At [**2103-7-12**] 08:15 AM
   for downsizing the trach [**Last Name (un) 1821**] # 6
   -s/p downsizing
   -not tolerating capped trached overnight for unclear reasons; cpap not
   attempted, so cap taken off and pt did not require mechanical
   ventilation
   -intermitted back pain, abd pain
   History obtained from Patient
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2103-7-13**] 08:00 AM
   Other medications:
   morphine x2 o/n, enalapril, riss, keppra, simvastatin, omepr,
   fluticasone, impratr, lidocaine patch, ca, vitd, trazodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, trach
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO, Tube feeds
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-7-13**] 01:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 75 (59 - 97) bpm
   BP: 170/49(77) {103/17(38) - 181/81(137)} mmHg
   RR: 15 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  150 mL
   PO:
                  150 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                  1,030 mL
   Urine:
                                                                  1,160 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,160 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Trach mask
   SpO2: 96%
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   320 K/uL
   261 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   13 mg/dL
   100 mEq/L
   136 mEq/L
   33.5 %
   12.6 K/uL
        [image002.jpg]
                             [**2103-7-11**]  03:24 AM
                             [**2103-7-12**]  04:55 AM
                             [**2103-7-13**]  05:11 AM
   WBC
   10.3
   10.0
   12.6
   Hct
   33.5
   33.5
   33.5
   Plt
   378
   344
   320
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   Glucose
   142
   134
   261
   Other labs: PT / PTT / INR:12.6/23.5/1.1, CK / CKMB /
   Troponin-T:19//<0.01, ALT / AST:[**4-28**], Alk Phos / T Bili:94/0.3, Amylase
   / Lipase:/17, Ca++:137.0, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: cxr: R hemi and r atelectasis?
   Microbiology: sputum cx: gnr x2
   sputum cx: resent
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   63F with history of hypercarbic respiratory failure, tracheal tear s/p
   trach, presented without acute issues but now s/p trach change, doing
   well off vent for 2 nights in a row. Several issues to discuss in
   transferring the patient to the floor.
   For trach managment, she did not tolerate trach cap overnight for
   unclear reasons. Suspect that secretions are the primary reasons for
   intolerance of trach capping. For now, the safest approach is to keep
   the patient with open trach at night, valve or cap during the day, and
   to continue to stay off ventilator.
   She may be developing a pneumonia based on rising wbc, secretions, and
   hyperglycemia. CXR is reassuring but sputum culture is pending. Low
   threshold to start antibiotics based on sputum cultures and OSH
   cultures.
   Spine fracture requires TLSO brace and ortho followup.
   Neurosurgery will review imaging and assess whether pt needs to be off
   anticoagulation and whether she still needs Keppra.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2103-7-10**] 08:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent: 35 minutes